Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.59403196256
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.575682559380001
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][H:6],5.01185821754
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.80063895353
[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-6.46992857
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8].[H:9],6.01528149913
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-2.2584560936
[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-5.1265081189
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8][H:9].[H:6],4.30983476809
[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],-1.23492329792
[C:1]#[C:2][C:5](=[O:6])[C:7]([H:8])([H:9])[H:10].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10],-4.485052508440001
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.6410742794700015
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.52913584046
[C:1]#[C:2][O:3][C:4][C:7]([H:8])([H:9])[H:10].[C:5][H:6]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-7.64622513269
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.886501091640001
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.1877471585889999
[C:6][H:7].[O:1][O:2][C:3]#[C:4][H:5]>>[O:1][O:2]/[C:3]=[C:4](\[H:5])[C:6][H:7],-4.51355521628
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3],0.859249750881
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-0.7842206004410001
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],2.18355341323
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.35341088018
[H:12].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.39409657497
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.23915075932
[H:1][C:2]([H:3])=[C:4][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-5.05576422876
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]=[C:8]([H:9])[H:10].[H:7],4.95702842596
[H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-3.95866467809
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11].[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.7802201842900005
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],8.03685198014
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10].[H:1][O:2],6.39307287065
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-8.15272573539
